US08957203B2
A solution of 4-iodo-6-methoxyisoquinolin-1-ol (2 g, 6.64 mmol) in POCl3 (10 mL) was refluxed for 4 h. After concentration, the residue was taken into a mixture of 100 mL of DCM and 50 mL of water, cooled to 0° C., neutralized with 3 N NaOH, dried over MgSO4, concentrated and purified via silica gel chromatography (5-20% EtOAc:Hex) to give the pure product 1-chloro-4-iodo-6-methoxyisoquinoline (1.3 g, 4.07 mmol, 61.2% yield) as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ 8.69 (s, 1H), 8.22 (d, J=9.3 Hz, 1H), 7.54 (dd, J=9.3, 2.5 Hz, 1H), 7.33 (d, J=2.5 Hz, 1H), 4.03 (s, 3H). MS: MS m/z 320(M++1).

reactant | 4-iodo-6-methoxyisoquinolin-1-ol | 6.64 mmol, 2 g | IC1=CN=C(C2=CC=C(C=C12)OC)O | C10H8INO2
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-4-iodo-6-methoxyisoquinoline | 4.07 mmol, 1.3 g, 61.2% yield | ClC1=NC=C(C2=CC(=CC=C12)OC)I | C10H7ClINO
